US07329680B2
A solution of N-[1-benzyl-5-(4-dibenzofuran-4-yl-phenyl)-2-oxo-1,2-dihydro-pyridin-3-yl]-oxalamic acid ethyl ester (110 mg, 0.203 mmol) in 1,4-dioxane (4 mL) was treated with NaOH (24 mg, 3 equiv., 0.6 mmol) and stirred at room temperature. After 4 h, the solution was acidified with 10% HCl to pH<5. The resulting precipitate was filtered and washed with ether (2×2 mL) to give N-[1-benzyl-5-(4-dibenzofuran-4-yl-phenyl)-2-oxo-1,2-dihydro-pyridin-3-yl]-oxalamic acid as a white solid (102.4 mg, 99%). Mp 220-223° C.; Rf 0.63 (50% methanol in ethyl acetate), 1H NMR (DMSO-d6, 300 MHz) δ 10.36 (s, 1H), 8.74 (d, J=2.4 Hz, 1H), 8.20-7.99 (m, 5H), 7.72, (dd, J1=10.2 Hz, J2=8.1 Hz, 4H), 7.53-7.28 (m, 7H), 5.28 (s, 2H) ); ESI-LCMS m/z calcd for C32H22N2O5: 514; found 515 (M+1)+.

reactant | N-[1-benzyl-5-(4-dibenzofuran-4-yl-phenyl)-2-oxo-1,2-dihydro-pyridin-3-yl]-oxalamic acid ethyl ester | 0.203 mmol, 110 mg | C(C)OC(C(=O)NC=1C(N(C=C(C1)C1=CC=C(C=C1)C1=CC=CC2=C1OC1=C2C=CC=C1)CC1=CC=CC=C1)=O)=O | C34H26N2O5
reactant | NaOH | 0.6 mmol, 24 mg, 3 equiv. | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | 1,4-dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | N-[1-benzyl-5-(4-dibenzofuran-4-yl-phenyl)-2-oxo-1,2-dihydro-pyridin-3-yl]-oxalamic acid | 102.4 mg, 99% | C(C1=CC=CC=C1)N1C(C(=CC(=C1)C1=CC=C(C=C1)C1=CC=CC2=C1OC1=C2C=CC=C1)NC(C(=O)O)=O)=O | C32H22N2O5
